US08492372B2
5-BROMO-3-FLUORO-2-(HYDROXYMETHYL)PHENOL
Methyl 4-bromo-2-fluoro-6-hydroxybenzoate (0.34 g, 1.4 mmol) was dissolved in dry THF (20 ml) under a blanket of nitrogen. The solution was cooled down to 0° C. and borane tetrahydrofuran complex (5.0 ml, 5.0 mmol) was slowly added. The mixture was stirred at 0° C. for 30 min and at ambient temperature for 15 min. Then it was cooled once more to 0° C. and carefully quenched with water, acidified with aqueous HCl (5%) and finally extracted several times with EtOAc. The combined organic phases were dried (Na2SO4), filtered and evaporated to dryness (0.33/g) to afford the title compound. No further purification was done on this intermediate. ESIMS: m/z 223 (M+H)+, 221 (M+H)+.

reactant | Methyl 4-bromo-2-fluoro-6-hydroxybenzoate | 1.4 mmol, 0.34 g | BrC1=CC(=C(C(=O)OC)C(=C1)O)F | C8H6BrFO3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-BROMO-3-FLUORO-2-(HYDROXYMETHYL)PHENOL | BrC=1C=C(C(=C(C1)O)CO)F | C7H6BrFO2
